### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus): derivative and complex conjugation

### PR DESCRIPTION
**Pull request by loefflerd**
Show that if `f x` is differentiable, so is `conj ∘ f ∘ conj`, and variations on that theme.

---

- [x] depends on: #25207 
 
[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/FDeriv/Basic.lean [hunk 1]
```diff
@@ -1463,3 +1463,29 @@ protected theorem HasCompactSupport.fderiv_apply (hf : HasCompactSupport f) (v :
...
+-/
+variable {𝕜 V V' W W' : Type*} [NontriviallyNormedField 𝕜] {σ σ' : RingHom 𝕜 𝕜}
+  [NormedAddCommGroup V] [NormedSpace 𝕜 V] [NormedAddCommGroup V'] [NormedSpace 𝕜 V']
+  [NormedAddCommGroup W] [NormedSpace 𝕜 W] [NormedAddCommGroup W'] [NormedSpace 𝕜 W']
+  [RingHomIsometric σ] [RingHomInvPair σ σ'] (L : W →SL[σ] W') (R : V' →SL[σ'] V)
+
+/-- If `L` and `R` are semilinear maps whose composite is linear, and `f` has Fréchet derivative
+`f'` at `R z`, then `L ∘ f ∘ R` has Fréchet derivative `L ∘ f' ∘ R` at `z`. -/
+lemma HasFDerivAt.comp_semilinear {f : V → W} {z : V'} {f' : V →L[𝕜] W}
+    (hf : HasFDerivAt f f' (R z)) : HasFDerivAt (L ∘ f ∘ R) (L.comp (f'.comp R)) z := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/FDeriv/Basic.lean:1479]: nit:
```suggestion
    (hf : HasFDerivAt f f' (R z)) : HasFDerivAt (L ∘ f ∘ R) (L ∘L f' ∘L R) z := by
```
which perhaps makes `L` look like a bad name!

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Basic.lean:1479]: Ah sorry, this of course doesn't work.

File: Mathlib/Analysis/Calculus/Deriv/Star.lean [hunk 2]
```diff
@@ -53,3 +57,33 @@ protected theorem deriv.star : deriv (fun y => star (f y)) x = star (deriv f x)
...
+  rw [hasDerivAt_iff_hasFDerivAt]
+  convert hf.hasFDerivAt.star_star
+  ext
+  simp
+
+/-- If `f` has derivative `f'` at `z`, then `conj ∘ f ∘ conj` has derivative `conj f'` at
+`conj z`. -/
+lemma HasDerivAt.conj_conj {f : 𝕜 → 𝕜} {f' : 𝕜} (hf : HasDerivAt f f' x) :
+    HasDerivAt (conj ∘ f ∘ conj) (conj f') (conj x) :=
+  hf.comp_ringHom (starRingEnd 𝕜) (starRingEnd 𝕜)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/Deriv/Star.lean:82]: Does `star_conj` prove this too?

File: Mathlib/Analysis/Calculus/FDeriv/Star.lean [hunk 3]
```diff
@@ -92,3 +100,28 @@ theorem fderivWithin_star (hxs : UniqueDiffWithinAt 𝕜 s x) :
...
+/-!
+## Composing on the left and right with `star`
+-/
+
+variable [StarAddMonoid E] [StarModule 𝕜 E] [ContinuousStar E] [NormedStarGroup 𝕜]
+
+/-- If `f` has derivative `f'` at `z`, then `star ∘ f ∘ star` has derivative `starL ∘ f' ∘ starL`
+at `star z`. -/
+lemma HasFDerivAt.star_star {f : E → F} {z : E} {f' : E →L[𝕜] F} (hf : HasFDerivAt f f' z) :
+    HasFDerivAt (star ∘ f ∘ star)
```
Comment (eric-wieser) [inline Mathlib/Analysis/Calculus/FDeriv/Star.lean:117]: Do we prefer writing `∘` or a `fun` here, for `HasFDerivAt` in general?

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Star.lean:117]: `HasDerivAt.star` doesn't use composition, so perhaps `fun` is better here.

Comment (loefflerd) [reply Mathlib/Analysis/Calculus/FDeriv/Star.lean:117]: Then it sounds like `HasDerivAt.star` is not following the convention established in the discussion at https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Convention.20for.20.60f.20*.20g.60.20and.20.2F.20or.20.60fun.20x.20.E2.86.A6.20f.20x.20*.20g.20x.60. If I understand correctly, the consensus of that discussion is that there is room in Mathlib for both the `fun` versions and the unapplied versions, but the versions with `fun` in the statement should have `fun` in the name.

Comment (eric-wieser) [reply Mathlib/Analysis/Calculus/FDeriv/Star.lean:117]: I think currently nothing conforms with the consensus there!

Comment (loefflerd) [reply Mathlib/Analysis/Calculus/FDeriv/Star.lean:117]: Only `AnalyticAt` and its siblings (which figures, since Stefan K. was the one pushing for this change). 

Given the lack of consistency with that rule, can I suggest we leave this for another PR (possibly with accompanying zulip discussion)?

**Comment by loefflerd** [comment]
I merged master on this and it started giving linter warnings, since the changes to `FDeriv/Basic.lean` put that file over the length limit. Hence #25207.

**Comment by loefflerd** [comment]
Let's see if Yury ok's the file-split PR; he should be waking up around now in Palo Alto. If he replies within the next few hours, then we can just merge the split and then proceed with this PR. If it's going to take longer than that to get the file split merged, then we can go for disabling the linter here.

**Review by j-loreaux — COMMENTED** [review]
minor comments
